US07858782B2
A mixture of ethyl β-ethoxyacrylate (26.50 g, 183 mmol) and 2 N sodium hydroxide (110 mL, 220 mmol) was refluxed for 2 h and cooled to 0° C. water was removed under vacc., and the yellow solids were triturated with toluene and evaporated to give the sodium β-ethoxyacrylate (25 g, 97%). The mixture of sodium β-thoxyacrylate (10.26 g, 74.29 mmol) and thionyl chloride (25 mL, 343 mmol) was refluxed for 2 h, and evaporated to give the β-ethoxyacryloyl chloride crude product, which was used without purification. To a cold stirring solution of 3-ethoxyacryloyl chloride in THF (100 mL) was added 2-chloro-6-methylaniline (6.2 mL, 50.35 mmol) and pyridine (9 ml, 111 mmol). The mixture was then warmed and stirred overnight at room temperature. Water was added at 0-10° C., extracted with EtOAc. The organic layer was washed with CuSO4 (3×50 mL) and the resulting solution was passed a pad of silica gel, concentrated under vacuum to give solids. The solids was diluted with toluene and kept at 0° C. The solid was collected by vacuum filtration, washed with water and dried to give 5.2 g (43% yield) of compound 1, (E)-N-(2-chloro-6-methylphenyl)-3-ethoxyacrylamide). 1H NMR (500 Hz, CDCl3) δ 1.26 (t, 3H, J=7 Hz), 2.15 (s, 3H), 3.94 (q, 2H, J=7 Hz), 5.58 (d, 1H, J=12.4 Hz), 7.10-7.27 (m, 2H, J=7.5 Hz), 7.27-7.37 (d, 1H, J=7.5 Hz), 7.45 (d, 1H, J=12.4 Hz); ESI-MS: calcd for (C12H14ClNO2) 239, found 240 MH+).

reactant | ethyl β-ethoxyacrylate | 183 mmol, 26.50 g | C(C)OC=CC(=O)OCC | C7H12O3
reactant | sodium hydroxide | 220 mmol, 2 N, 110 mL | [OH-].[Na+]
solvent | water | O | H2O
product | sodium β-ethoxyacrylate | 25 g, 97% | C(C)OC=CC(=O)[O-].[Na+] | InChI=1S/C5H8O3.Na/c1-2-8-4-3-5(6)7;/h3-4H,2H2,1H3,(H,6,7);/q;+1/p-1
